US07271263B2
In 20 ml of toluene were dissolved 0.77 g (3.9 m moles) of 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone and 0.69 g (4.3 m moles) of 2-methylphenylhydrazine hydrochloride. Thereto was added 0.64 g (4.7 m moles) of zinc chloride, followed by refluxing for 2 hours. The reaction mixture was allowed to cool, and then ethyl acetate and water were added to dissolve the whole reaction mixture. The oily layer was washed with water, separated and dried over Glauber's salt. The resulting oily layer was concentrated under reduced pressure using a rotary evaporator, to obtain an orange solid. The solid was treated with ethyl acetate/n-hexane to obtain 0.38 g (1.34 m moles) of 3-(4,6-dimethoxypyrimidine-2-yl)-2,7-dimethylindole. Yield: 34% Melting point: 145 to 147° C.

reactant | 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone | 0.77 g | COC1=NC(=NC(=C1)OC)CC(C)=O | C9H12N2O3
reactant | 2-methylphenylhydrazine hydrochloride | 0.69 g | Cl.CC1=C(C=CC=C1)NN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 0.64 g | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | 3-(4,6-dimethoxypyrimidine-2-yl)-2,7-dimethylindole | 0.38 g, Yield: 34% | COC1=NC(=NC(=C1)OC)C1=C(NC2=C(C=CC=C12)C)C | C16H17N3O2
